US08802864B2
b) 4-(4-bromo-2-chlorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a suspension of N-(4-bromo-2-chlorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (1.3 g, 2.93 mmol) in water (60 mL) was added K2CO3 (2.025 g, 14.65 mmol). The reaction flask was equipped with a reflux condenser and heated to reflux (bath=120° C.) with stirring. After 5 h (analysis by LCMS indicated no starting material remained), the reaction mixture was cooled to room temperature and filtered to collect a small amount of white precipitate (this was determined to contain very little product and was discarded). The aqueous filtrate was adjusted to pH˜5.5 with 1N aq HCl and extracted with ethyl acetate (2×). The combined organics were dried over Na2SO4, filtered, and evaporated to provide the title product (570 mg, 1.339 mmol, 46% yield) as a foam. The product was determined to be 75% pure by LCMS (UV214) and was carried on in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 7.80 (dt, J=2.3, 5.7 Hz, 1H), 7.68-7.52 (m, 1H), 7.28-7.22 (m, 1H), 4.01-3.35 (m, 2H), 3.34-2.99 (m, 1H), 2.74-2.08 (m, 3H), 1.82-1.66 (m, 1H), 1.59-1.51 (m, 1H), 1.12-0.91 (m, 1H), 0.83-0.69 (m, 1H).

reactant | N-(4-bromo-2-chlorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 2.93 mmol, 1.3 g | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)Cl | C17H20BrClN4O3
reactant | K2CO3 | 14.65 mmol, 2.025 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 60 mL | O | H2O
product | 4-(4-bromo-2-chlorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.339 mmol, 570 mg, 46% yield | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)Cl | C17H18BrClN4O2
